US08377980B2
(R)-2-(Methoxycarbonylamino)-2-phenylacetic acid
A methanol (10 mL) solution of either stereoisomer of benzyl 2-(4-methylpiperazin-1-yl)-2-phenylacetate (1.0 g, 3.1 mmol) was added to a suspension of 10% Pd/C (120 mg) in methanol (5.0 mL). The reaction mixture was exposed to a balloon of hydrogen, under a careful monitoring, for <50 minutes. Immediately after the completion of the reaction, the catalyst was filtered through diatomaceous earth (CELITE®) and the filtrate was concentrated in vacuo to provide Cap-7, contaminated with phenylacetic acid as a tan foam (867.6 mg; mass is above the theoretical yield). The product was used for the next step without further purification. 1H NMR (DMSO-d6, δ=2.5, 500 MHz) δ 7.44-7.37 (m, 2H), 7.37-7.24 (m, 3H), 3.92 (s, 1H), 2.63-2.48 (app. br s, 2H), 2.48-2.32 (m, 6H), 2.19 (s, 3H); RT=0.31 (Condition II); >90% homogeneity index; LC-MS: Anal. Calcd. for [M+H]+ C13H19N2O2: 235.14. found 235.15; HRMS: Anal. Calcd. for [M+H]+ C13H16N2O2: 235.1447. found 235.1440.

reactant | benzyl 2-(4-methylpiperazin-1-yl)-2-phenylacetate | 3.1 mmol, 1.0 g | CN1CCN(CC1)C(C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O2
reactant | hydrogen | [H][H] | H2
reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | methanol | 5.0 mL | CO | CH4O
reactant | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | (R)-2-(Methoxycarbonylamino)-2-phenylacetic acid | COC(=O)N[C@@H](C(=O)O)C1=CC=CC=C1 | C10H11NO4
